US04999353
5-tert-butyl-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline
Ethyl 5-tert-butyl-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline-3-carboxylate, m.p. 289°-290° C. by reaction between ethyl isocyanoacetate and 1-tert-butyl-1,2,3,4-tetrahydro-2,3-dioxoquinoxaline

reactant | Ethyl 5-tert-butyl-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline-3-carboxylate | C(C)(C)(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C(=O)OCC)=O | C17H19N3O3
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 1-tert-butyl-1,2,3,4-tetrahydro-2,3-dioxoquinoxaline | C(C)(C)(C)N1C(C(NC2=CC=CC=C12)=O)=O | C12H14N2O2
product | 5-tert-butyl-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline | C(C)(C)(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C2=NOC(=N2)C2CC2)=O | C19H19N5O2
